// Generated for: spectre
// Generated on: Mar  6 13:09:58 2020
// Design library name: Proj
// Design cell name: sina_1bit_comp
// Design view name: schematic
simulator lang=spectre
global 0
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: gsclib090
// Cell name: AND2X1
// View name: schematic
subckt AND2X1 A B Y inh_VDD inh_VSS
    mp1 (n0 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n0 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp2 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn2 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (net127 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn1 (n0 A net127 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends AND2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX1
// View name: schematic
subckt INVX1 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NOR2X1
// End of subcircuit definition.

// Library name: Proj
// Cell name: sina_1bit_comp
// View name: schematic
I7 (net9 B net10 VDD GND) AND2X1
I8 (A net8 Q2 VDD GND) AND2X1
I0 (A net9 VDD GND) INVX1
I1 (B net8 VDD GND) INVX1
I14 (net10 Q2 Q1 VDD GND) NOR2X1
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
