// Generated for: spectre
// Generated on: Mar  7 10:49:46 2020
// Design library name: Proj2
// Design cell name: tb_Abs_Value_Detector
// Design view name: schematic
simulator lang=spectre
global 0
parameters VDD=0.765 VEXT=.765
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: gsclib090
// Cell name: XOR2X1
// View name: schematic
subckt XOR2X1 A B Y inh_VDD inh_VSS
    mp3 (n0 n2 net130 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp1 (n2 B inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp4 (n1 B n0 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp5 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (net130 n1 inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n \
        as=100.8f ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn1 (n2 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn5 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn3 (n0 B net131 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn4 (n0 n2 n1 inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn2 (net131 n1 inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n \
        as=67.2f ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends XOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B Y inh_VDD inh_VSS
    mp1 (Y B net41 inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (net41 A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (Y B inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NOR2X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: INVX1
// View name: schematic
subckt INVX1 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: Proj2
// Cell name: magnitude_detector
// View name: schematic
subckt magnitude_detector GND M0 M1 M2 M3 M4 VDD X0 X1 X2 X3 X4 X5
    I4 (net22 VDD net68 VDD GND) XOR2X1
    I3 (X1 net26 net67 VDD GND) XOR2X1
    I2 (net23 net25 net71 VDD GND) XOR2X1
    I1 (X3 net24 net69 VDD GND) XOR2X1
    I0 (net66 net40 net70 VDD GND) XOR2X1
    I27 (net62 net83 M0 VDD GND) NAND2X1
    I26 (net63 net76 M1 VDD GND) NAND2X1
    I25 (net64 net78 M2 VDD GND) NAND2X1
    I24 (net65 net80 M3 VDD GND) NAND2X1
    I23 (net60 net61 M4 VDD GND) NAND2X1
    I22 (X0 net16 net62 VDD GND) NAND2X1
    I21 (X1 net16 net63 VDD GND) NAND2X1
    I20 (X2 net16 net64 VDD GND) NAND2X1
    I19 (X3 net16 net65 VDD GND) NAND2X1
    I18 (X4 net16 net60 VDD GND) NAND2X1
    I16 (net68 X5 net83 VDD GND) NAND2X1
    I15 (net67 X5 net76 VDD GND) NAND2X1
    I14 (net71 X5 net78 VDD GND) NAND2X1
    I13 (net69 X5 net80 VDD GND) NAND2X1
    I12 (net70 X5 net61 VDD GND) NAND2X1
    I6 (net23 net25 net24 VDD GND) NAND2X1
    I5 (net22 VDD net26 VDD GND) NAND2X1
    I8 (X3 net24 net40 VDD GND) NOR2X1
    I7 (X1 net26 net25 VDD GND) NOR2X1
    I17 (X5 net16 VDD GND) INVX1
    I11 (X4 net66 VDD GND) INVX1
    I10 (X2 net23 VDD GND) INVX1
    I9 (X0 net22 VDD GND) INVX1
ends magnitude_detector
// End of subcircuit definition.

// Library name: Proj2
// Cell name: new_1bit_comp
// View name: schematic
subckt new_1bit_comp A B GND Q1 Q2 VDD
    I26 (net22 B Q2 VDD GND) NOR2X1
    I25 (A net23 net24 VDD GND) NOR2X1
    I24 (net24 Q2 Q1 VDD GND) NOR2X1
    I28 (B net23 VDD GND) INVX1
    I27 (A net22 VDD GND) INVX1
ends new_1bit_comp
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND3X1
// View name: schematic
subckt NAND3X1 A B C Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (n0 B n1 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn2 (Y C n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n1 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND3X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: NAND4X1
// View name: schematic
subckt NAND4X1 A B C D Y inh_VDD inh_VSS
    mp3 (Y D inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp2 (Y C inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp1 (Y B inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn1 (n1 B n2 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn3 (Y D n0 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn2 (n0 C n1 inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n2 A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends NAND4X1
// End of subcircuit definition.

// Library name: gsclib090
// Cell name: OR2X1
// View name: schematic
subckt OR2X1 A B Y inh_VDD inh_VSS
    mp1 (n0 B n1 inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mp2 (Y n0 inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mp0 (n1 A inh_VDD inh_VDD) gpdk090_pmos1v w=(360n) l=100n as=100.8f \
        ad=100.8f ps=920n pd=920n m=(1)*(1) simM=(1)*(1)
    mn2 (Y n0 inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    mn0 (n0 A inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
    mn1 (n0 B inh_VSS inh_VSS) gpdk090_nmos1v w=(240n) l=100n as=67.2f \
        ad=67.2f ps=800n pd=800n m=(1)*(1) simM=(1)*(1)
ends OR2X1
// End of subcircuit definition.

// Library name: Proj2
// Cell name: NAND5
// View name: schematic
subckt NAND5 A B C D E GND VDD Y
    I1 (D E net7 VDD GND) NAND2X1
    I3 (net8 net7 Y VDD GND) OR2X1
    I0 (A B C net8 VDD GND) NAND3X1
ends NAND5
// End of subcircuit definition.

// Library name: Proj2
// Cell name: new_comparator
// View name: schematic
subckt new_comparator A0 A1 A2 A3 A4 B0 B1 B2 B3 B4 GND Q VDD
    I12 (A4 B4 GND net3 net8 VDD) new_1bit_comp
    I13 (A3 B3 GND net2 net15 VDD) new_1bit_comp
    I14 (A2 B2 GND net1 net16 VDD) new_1bit_comp
    I15 (A1 B1 GND net5 net14 VDD) new_1bit_comp
    I4 (net11 B0 net12 VDD GND) NOR2X1
    I11 (net8 net020 VDD GND) INVX1
    I5 (A0 net11 VDD GND) INVX1
    I6 (net3 net15 net7 VDD GND) NAND2X1
    I7 (net3 net2 net16 net13 VDD GND) NAND3X1
    I8 (net3 net2 net1 net14 net6 VDD GND) NAND4X1
    I17 (net020 net7 net13 net6 net9 GND VDD Q) NAND5
    I16 (net3 net2 net1 net5 net12 GND VDD net9) NAND5
ends new_comparator
// End of subcircuit definition.

// Library name: Proj2
// Cell name: Abs_Value_Detector
// View name: schematic
subckt Abs_Value_Detector GND OUT T0 T1 T2 T3 T4 VDD X0 X1 X2 X3 X4 X5
    I15 (GND net22 net21 net20 net19 net18 VDD X0 X1 X2 X3 X4 X5) \
        magnitude_detector
    I14 (net22 net21 net20 net19 net18 T0 T1 T2 T3 T4 GND OUT VDD) \
        new_comparator
ends Abs_Value_Detector
// End of subcircuit definition.

// Library name: Proj2
// Cell name: INVX32
// View name: schematic
subckt INVX32 A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(20.8u) l=100n as=5.824p \
        ad=5.824p ps=21.36u pd=21.36u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(13.76u) l=100n as=3.8528p \
        ad=3.8528p ps=14.32u pd=14.32u m=(1)*(1) simM=(1)*(1)
ends INVX32
// End of subcircuit definition.

// Library name: Proj2
// Cell name: Load
// View name: schematic
subckt Load GND OUT VDD
    I1 (net8 net7 VDD GND) INVX32
    I0 (OUT net8 VDD GND) INVX32
ends Load
// End of subcircuit definition.

// Library name: Proj2
// Cell name: INVX1
// View name: schematic
subckt INVX1_schematic A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) gpdk090_pmos1v w=(650n) l=100n as=182f \
        ad=182f ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
    mn0 (Y A inh_VSS inh_VSS) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
ends INVX1_schematic
// End of subcircuit definition.

// Library name: Proj2
// Cell name: Driver
// View name: schematic
subckt Driver GND T0 T1 T2 T3 T4 VDD X0 X1 X2 X3 X4 X5
    V3 (net50 GND) vsource type=pwl wave=[ 10.08 0 10.1 0 ]
    V0 (net49 GND) vsource type=pwl wave=[ 10.08n 0 10.1n 1 ]
    V5 (net48 GND) vsource type=pwl wave=[ 10.08n 0 10.1n 1 ]
    V6 (net47 GND) vsource dc=1 type=dc
    V7 (net46 GND) vsource dc=1 type=dc
    V8 (net45 GND) vsource dc=1 type=dc
    V9 (net44 GND) vsource dc=1 type=dc
    V11 (net43 GND) vsource dc=0 type=dc
    I21 (net47 net57 VDD GND) INVX1_schematic
    I12 (net57 T0 VDD GND) INVX1_schematic
    I1 (net64 X0 VDD GND) INVX1_schematic
    I0 (0 net64 VDD GND) INVX1_schematic
    I14 (net46 net56 VDD GND) INVX1_schematic
    I13 (net56 T1 VDD GND) INVX1_schematic
    I3 (0 net63 VDD GND) INVX1_schematic
    I2 (net63 X1 VDD GND) INVX1_schematic
    I18 (net45 net55 VDD GND) INVX1_schematic
    I15 (net55 T2 VDD GND) INVX1_schematic
    I7 (0 net62 VDD GND) INVX1_schematic
    I4 (net62 X2 VDD GND) INVX1_schematic
    I17 (net44 net54 VDD GND) INVX1_schematic
    I16 (net54 T3 VDD GND) INVX1_schematic
    I6 (net50 net61 VDD GND) INVX1_schematic
    I5 (net61 X3 VDD GND) INVX1_schematic
    I20 (net58 T4 VDD GND) INVX1_schematic
    I19 (net43 net58 VDD GND) INVX1_schematic
    I11 (net59 X4 VDD GND) INVX1_schematic
    I8 (net49 net59 VDD GND) INVX1_schematic
    I10 (net60 X5 VDD GND) INVX1_schematic
    I9 (net48 net60 VDD GND) INVX1_schematic
ends Driver
// End of subcircuit definition.

// Library name: Proj2
// Cell name: tb_Abs_Value_Detector
// View name: schematic
I18 (0 OUT T0 T1 T2 T3 T4 VDD X0 X1 X2 X3 X4 X5) Abs_Value_Detector
I19 (0 OUT VEXT) Load
I20 (0 T0 T1 T2 T3 T4 VEXT X0 X1 X2 X3 X4 X5) Driver
V1 (VEXT 0) vsource dc=VEXT type=dc
V0 (VDD 0) vsource dc=VDD type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=90.1n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save X0 X3 X5 OUT V0:p V0:p 
saveOptions options save=allpub
